US07947730B2
c) Hydroxy-di-thiophen-2-yl-acetic acid 1-methyl-piperidin-4-ylmethyl ester
A solution of 2-bromothiophene (2.15 ml, 22.2 mmol) in THF (15 ml) is added dropwise to a mixture of magnesium (0.54 g, 22.2 mmol) and a single crystal of iodine in THF (15 ml). After addition of just under one half of the 2-bromothiophene the addition is suspended until reaction has initiated (judged by an exotherm). The addition is then completed maintaining the reaction temperature to below 40° C. After the addition is completed the reaction mixture is heated to reflux for 20 minutes. This mixture is then cooled and added to a solution of oxo-thiophen-2-yl-acetic acid 1-methyl-piperidin-4-ylmethyl ester (4.6 g, 17.2 mmol) in THF (40 ml). After the addition is completed the reaction mixture is stirred at room temperature for 1 hour and then heated to reflux for 2.5 hours. After cooling to room temperature saturated aqueous ammonium chloride solution (100 ml) is added together with diethylether. The solution is extracted with diethylether dried over magnesium sulphate, filtered and concentrated. Purification by flash silica column chromatography gives the title product.

reactant | 2-bromothiophene | 22.2 mmol, 2.15 ml | BrC=1SC=CC1 | C4H3BrS
reactant | magnesium | 22.2 mmol, 0.54 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | oxo-thiophen-2-yl-acetic acid 1-methyl-piperidin-4-ylmethyl ester | 17.2 mmol, 4.6 g | CN1CCC(CC1)COC(C(C=1SC=CC1)=O)=O | C13H17NO3S
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | Hydroxy-di-thiophen-2-yl-acetic acid 1-methyl-piperidin-4-ylmethyl ester | CN1CCC(CC1)COC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C17H21NO3S2
